US04933453
3-(4-(1-(1,2-Benzisothiazol-3-yl)-4-piperazinyl)butyl)-5-(2,2,2-trifluorethyl)-4-thiazolidinone hydrochloride
A mixture of 3-(4-bromobutyl)-5-(2,2,2-trifluoroethyl)-4-thiazolidinone (3.20 g), 1-(1,2-benzisothiazol-3-yl)piperazine hydrochloride (2.81 g), K2CO3 (4.83 g) and NaI (250 mg) in acetonitrile (280 ml) was heated at 70° C. for 15 hours and the product was processed in substantially the same manner as in Example 10 to afford 2.30 g of crystals, m.p. 188°-200° C.

reactant | 3-(4-bromobutyl)-5-(2,2,2-trifluoroethyl)-4-thiazolidinone | 3.20 g | BrCCCCN1CSC(C1=O)CC(F)(F)F | C9H13BrF3NOS
reactant | 1-(1,2-benzisothiazol-3-yl)piperazine hydrochloride | 2.81 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCNCC2
reactant | K2CO3 | 4.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 250 mg | [Na+].[I-]
solvent | acetonitrile | 280 ml | C(C)#N | C2H3N
product | 3-(4-(1-(1,2-Benzisothiazol-3-yl)-4-piperazinyl)butyl)-5-(2,2,2-trifluorethyl)-4-thiazolidinone hydrochloride | 2.30 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2CSC(C2=O)CC(F)(F)F | InChI=1S/C20H25F3N4OS2.ClH/c21-20(22,23)13-17-19(28)27(14-29-17)8-4-3-7-25-9-11-26(12-10-25)18-15-5-1-2-6-16(15)30-24-18;/h1-2,5-6,17H,3-4,7-14H2;1H
